reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:6][H:18])([H:7])([H:8])[H:9].[C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:10])[H:11],115.51289514685301
[O-:1][C:2]1=[C:6]=[O+:5][C:4]([H:9])([H:10])[C:3]1([H:7])[H:8]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[C@@:4]2([H:9])[O:5][C@@:6]12[H:10],46.15094962666999
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O+:6]=[C-:5][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],110.67113841588899
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O-:1][C:2](=[C:3]=[O+:6][C:5]([C:4]([H:8])([H:9])[H:10])([H:11])[H:12])[H:7],77.9625882099392
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][O:7]/[C:6](=[C:4](/[C:5]([H:14])([H:15])[H:16])[H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],98.4087080727047
[C:1]([C:2]#[C:3][C@:4]([C:5](=[O:6])[H:12])([C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],77.98404888496482
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:15])[H:17])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][H:18]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],78.5608643595288
[O:1]([C:2]([C:3]#[N:4])([H:6])[H:7])[H:5]>>[C:3]=[N:4][H:5].[O:1]=[C:2]([H:6])[H:7],67.9834724480003
[O:1]([N:4]=[C:3]=[C:2]([H:6])[H:7])[H:5]>>[O:1]([C:2]([C:3]#[N:4])([H:6])[H:7])[H:5],53.983772638989
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]1=[N:4][C@:7]1(/[C:6](=[N:5]/[H:11])[H:12])[H:13])([H:8])([H:9])[H:10],88.5374034596809
[C:1]([C:2]([O:3][H:11])=[C:4]([H:12])[H:13])([H:7])([H:8])[H:9].[C:5]=[N:6][H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],69.5633566241485
[C-:5]#[O+:6].[N:1]([C:2]([O:3][H:11])=[C:4]([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8],23.437067017185317
[O:1]([C:2]([C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C:4](#[C:5][H:11])[H:6].[O:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7],89.09228440358143
[C:1]([N:2]=[C:3]=[O:4])([H:8])([H:9])[H:10].[N-:5]([C+:6]([N:7]([H:11])[H:14])[H:13])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],34.3295362577926
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]=[C:5]=[C:6]([O:7][H:11])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],46.48813658532241
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C@:2]1([H:9])[O:3][C@:4]1([C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])[H:8],106.956416925564
[C:1]([C:2]([C:3]([C:4]([O-:5])=[C+:6][O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],32.317235422370594
[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C@@:5]2([H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15]>>[O:1]=[C:2]([C@@:7]1([H:15])[C@:5]([C:4](=[C:3]([H:8])[H:9])[H:11])([H:12])[C:6]1([H:13])[H:14])[H:10],99.6935097288474
[C:1]1([H:9])([H:10])[C:2]([O:3][H:11])=[C:4]([H:12])[O:5]1.[C:6](=[O:7])([H:8])[H:13]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],51.97358427749481
[N:1]([C:2](=[O:3])[C:4]#[C:5][N+:7]#[C-:6])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],37.49344501462939
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:7][H:9].[O:1]=[C:2]=[C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])[H:8],79.2618242681951
[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:1]([O+:2]=[C:3]([H:10])[H:11])([H:7])[H:9].[C:4](=[O:5])([C:6]([H:12])([H:13])[H:14])[H:8],83.2253770605749
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O+:3]=[C-:4][N:5]([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],82.338353333854
[C:1]1([H:8])([H:9])[C@:2]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])[O:3]1>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],72.5709774493339
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[O:4][C@:5]1([O:6][H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],58.1059992421419
